US08012972B2
N-(2-Aminophenyl)-5-[3-(4-hydroxyphenyl)-1-[5-(morpholin-4-yl)pentyl]ureidomethyl]pyridine-2-carboxylic acid amide (Compound No. 3-1)
Under a nitrogen atmosphere, 10% palladium on carbon (30 mg) was added to a solution of N-(2-aminophenyl)-5-[3-(4-benzyloxyphenyl)-1-[5-(morpholin-4-yl)pentyl]ureidomethyl]pyridine-2-carboxylic acid amide (Compound No. 1-182, 45 mg, 0.072 mmol) in a mixed solvent (ethyl acetate (2.0 mL) and methanol (3.0 mL)), and then the reaction mixture was stirred under a hydrogen atmosphere at room temperature for 2 hours. After the insoluble was filtered off with celite, the filtrate was concentrated. The residue was purified by silica gel column chromatography (chloroform-methanol) to give 32 mg of the title compound as a yellow oil. (Yield 84%)

reactant | N-(2-aminophenyl)-5-[3-(4-benzyloxyphenyl)-1-[5-(morpholin-4-yl)pentyl]ureidomethyl]pyridine-2-carboxylic acid amide | NC1=C(C=CC=C1)NC(=O)C1=NC=C(C=C1)CN(C(=O)NC1=CC=C(C=C1)OCC1=CC=CC=C1)CCCCCN1CCOCC1 | C36H42N6O4
reactant | ethyl acetate | 2.0 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 30 mg | [Pd] | Pd
solvent | methanol | 3.0 mL | CO | CH4O
product | N-(2-Aminophenyl)-5-[3-(4-hydroxyphenyl)-1-[5-(morpholin-4-yl)pentyl]ureidomethyl]pyridine-2-carboxylic acid amide | 32 mg, Yield 84% | NC1=C(C=CC=C1)NC(=O)C1=NC=C(C=C1)CN(C(=O)NC1=CC=C(C=C1)O)CCCCCN1CCOCC1 | C29H36N6O4
